US04540699
To a cooled (0° C.), stirred suspension of 50% sodium hydride in oil (6.37 g) in dimethoxyethane (80 ml) was added dropwise over 25 minutes a mixture of ethyl β-(N-benzyl-2-oxo-4-pyridyl)propionate (30.29 g) and ethylformate (11.80 g), whilst maintaining the reaction temperature between 5°-8° C. The reaction mixture was allowed to warm slowly to room temperature overnight and then was poured on to ice. A brown solution formed which was extracted successively with petroleum ether (40°-60° C.) (60 ml) and diethyl ether (70 ml). The combined organic extracts were washed with water. The combined aqueous layer and aqueous washings were taken to pH 5 with glacial acetic acid. The solution was cooled whereupon a solid appeared which was collected by filtration, washed with water, washed with ethyl acetate and dried in vacuo to yield ethyl α-formyl-β-(N-benzyl-2-oxo-4-pyridyl)propionate (22.52 g), m.p. 140°-143° C.

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl β-(N-benzyl-2-oxo-4-pyridyl)propionate | 30.29 g | C(C1=CC=CC=C1)N1C(C=C(C=C1)CCC(=O)OCC)=O | C17H19NO3
reactant | ethylformate | 11.80 g | C(C)OC=O | C3H6O2
solvent | dimethoxyethane | 80 ml | C(OC)COC | C4H10O2
product | ethyl α-formyl-β-(N-benzyl-2-oxo-4-pyridyl)propionate | 22.52 g | C(=O)C(C(=O)OCC)CC1=CC(N(C=C1)CC1=CC=CC=C1)=O | C18H19NO4
